US06831087B2
4-(3,4-Dihydro-1H-isoquinolin-2-yl)-pyridin-2-yl-amine
Following the general method described in example 24, 4-bromo-pyridin-2-yl-amine (H. J. den Hertog, Recl.Trav.Chim.Pays-Bas, 1945, 64, 85) was reacted with 1,2,3,4-tetrahydro-isoquinoline. The crude product was chromatographed (SiO2 with CH2Cl2/CH3OH/NH4OH=200/10/1) and crystallized to yield the title compound as an off-white crystalline material. Mp. 160-161° C. (CH3CN), MS: m/e=226 (M+H+).

reactant | 4-bromo-pyridin-2-yl-amine | BrC1=CC(=NC=C1)N | C5H5BrN2
reactant | 1,2,3,4-tetrahydro-isoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
product | 4-(3,4-Dihydro-1H-isoquinolin-2-yl)-pyridin-2-yl-amine | C1N(CCC2=CC=CC=C12)C1=CC(=NC=C1)N | C14H15N3
